US08242175B2
A mixture of 4-formylcinnamic acid (250 mg, 1.42 mmol), 1-[2-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-ethanone (obtained as described in Preparation 13, 358 mg, 1.42 mmol) and 1.7 M KOH (1.67 ml) in EtOH (10 ml) was stirred at 0° C. for 6 h and then acidified with 10% HCl until reaching a pH value of 6. The resulting yellow precipitate was filtered and rinsed with EtOH and Et2O to give 519 mg of (E)-3-(4-{(E)-3-[2-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid. The reaction product was used in the next step without any further purification.

reactant | 4-formylcinnamic acid | 1.42 mmol, 250 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | 1-[2-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 1.42 mmol, 358 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C)C(C)=O | C13H17ClN2O
reactant | KOH | 1.7 M, 1.67 ml | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 10 ml | CCO | C2H6O
product | (E)-3-(4-{(E)-3-[2-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | 519 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C23H23ClN2O3
